US08710049B2
1-(4-(Oxazol-2-yl)phenyl)piperidin-3-ol (245 mg, 1.00 mmol) was synthesized, in 45% yield, as described in General Procedure B using 2-(4-bromophenyl)oxazole (500 mg, 2.232 mmol) and piperidin-3-ol (451 mg, 4.46 mmol). Anal. Calcd. for C14H16N2O2 m/z 244.2, found: 245.0 (M+H)+.

reactant | 2-(4-bromophenyl)oxazole | 2.232 mmol, 500 mg | BrC1=CC=C(C=C1)C=1OC=CN1 | C9H6BrNO
reactant | piperidin-3-ol | 4.46 mmol, 451 mg | N1CC(CCC1)O | C5H11NO
product | 1-(4-(Oxazol-2-yl)phenyl)piperidin-3-ol | 1.00 mmol, 245 mg, 45% yield | O1C(=NC=C1)C1=CC=C(C=C1)N1CC(CCC1)O | C14H16N2O2
